*******************************************************************************
*                                                                             *
* Copyright 2026 IHP PDK Authors                                              *
*                                                                             *
* Licensed under the Apache License, Version 2.0 (the "License");             *
* you may not use this file except in compliance with the License.            *
* You may obtain a copy of the License at                                     *
*                                                                             *
*     https://www.apache.org/licenses/LICENSE-2.0                             *
*                                                                             *
* Unless required by applicable law or agreed to in writing, software         *
* distributed under the License is distributed on an "AS IS" BASIS,           *
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.    *
* See the License for the specific language governing permissions and         *
* limitations under the License.                                              *
*                                                                             *
*******************************************************************************

*******************************************************************************
* MOS capacitors
*******************************************************************************

.param SWSOA = 0

.subckt sg13_moscap_n G SUB
+ w=1.0u l=1.0u m=1 mm_ok=1 ng=1 rfmode=0 pre_layout=1

.include sg13g2_moscap_parm.lib

YPSP103_VA M1 SUB G SUB SUB sg13g2_moscap_n_psp w='w' l='l' nf=1
+ as='w*0.34e-6' ad='w*0.34e-6' ps='2*(w+0.34e-6)' pd='2*(w+0.34e-6)' mult='m'
+ dta=0
+ ngcon=2
.ends sg13_moscap_n

.subckt sg13_moscap_p G NW
+ w=1.0u l=1.0u m=1 mm_ok=1 ng=1 rfmode=0 pre_layout=1

.include sg13g2_moscap_parm.lib

YPSP103_VA M1 NW G NW NW sg13g2_moscap_p_psp w='w' l='l' nf=1
+ as='w*0.34e-6' ad='w*0.34e-6' ps='2*(w+0.34e-6)' pd='2*(w+0.34e-6)' mult='m'
+ dta=0
+ ngcon=2
.ends sg13_moscap_p
